US06878708B2
2-Propoxybenzamidine Hydrochloride
21.41 g (400 ml) of ammonium chloride are suspended in 400 ml of toluene and cooled to 0-5° C. 200 ml of a 2 M solution of trimethylaluminum in hexane are added dropwise, and the mixture is stirred at room temperature until the evolution of gas has ceased. Following addition of 32.2 g (200 mmol) of 2-propoxybenzonitrile, the reaction mixture is stirred at 80° C. (bath) overnight. The cooled reaction mixture is, with ice-cooling, added to a suspension of 300 g of silica gel and 2.85 ml of ice-cooled chloroform and stirred for 30 minutes. The mixture is filtered off with suction and the filter cake is washed with the same amount of methanol. The solvent is distilled off under reduced pressure, the residue is triturated in 500 ml of a mixture of dichloromethane and methanol (9:1), the solid is filtered off and the mother liquor is concentrated. The residue is triturated with petroleum ether and filtered off with suction. This gives 22.3 g (52%) of product.

reactant | ammonium chloride | 400 ml, 21.41 g | [Cl-].[NH4+]
reactant | trimethylaluminum | C[Al](C)C
reactant | 2-propoxybenzonitrile | 200 mmol, 32.2 g | C(CC)OC1=C(C#N)C=CC=C1 | C10H11NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-Propoxybenzamidine Hydrochloride | Cl.C(CC)OC1=C(C(=N)N)C=CC=C1 | InChI=1S/C10H14N2O.ClH/c1-2-7-13-9-6-4-3-5-8(9)10(11)12;/h3-6H,2,7H2,1H3,(H3,11,12);1H
